US04027027
A solution of 12 g of 6-(2-benzylamino-2,2-dimethylethoxy)-nicotinic acid amide and 12 g of 1-(2-methylphenoxy)2,3-epoxy-propane in 150 ml of isopropanol is boiled for 28 hours under reflux. After working up analogously to Example 1(c), crude 1-[N-benzyl-N-[2-(5-carbamoyl-2-pyridyloxy)-1,1-dimethyl-ethyl]-amino]-3-(2-methyl-phenoxy)-2-propanol is obtained, which is used further without additional purification.

reactant | 6-(2-benzylamino-2,2-dimethylethoxy)-nicotinic acid amide | 12 g | C(C1=CC=CC=C1)NC(COC1=NC=C(C(=O)N)C=C1)(C)C | C17H21N3O2
reactant | 1-(2-methylphenoxy)2,3-epoxy-propane | 12 g | CC1=C(OCC2CO2)C=CC=C1 | C10H12O2
solvent | isopropanol | 150 ml | C(C)(C)O | C3H8O
product | 1-[N-benzyl-N-[2-(5-carbamoyl-2-pyridyloxy)-1,1-dimethyl-ethyl]-amino]-3-(2-methyl-phenoxy)-2-propanol | C(C1=CC=CC=C1)N(C(COC1=NC=C(C=C1)C(N)=O)(C)C)CC(COC1=C(C=CC=C1)C)O | C27H33N3O4
